US04444868
In 65.8 g of acetic anhydride, 20.0 g of γ-picolin and 26.2 g of p-hydroxybenzaldehyde were refluxed for 24 hours. The resultant reaction mixture and 100 ml of 6 N hydrochloric acid added thereto were further refluxed for 60 minutes and then cooled. The reaction product was neutralized by addition of aqueous ammonia and stirred for 1 hour. The yellow crystals which consequently deposited therein were separated by filtration. The crystals were recrystallized from a mixed solvent of ethanol and ether, to afford 35 g of 4-[2-(4-hydroxyphenyl)-ethenyl]-pyridine having a melting point of 272° to 275° C.

reactant | γ-picolin | 20.0 g | N1=CC=C(C=C1)C | C6H7N
reactant | p-hydroxybenzaldehyde | 26.2 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | hydrochloric acid | 6 N, 100 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | acetic anhydride | 65.8 g | C(C)(=O)OC(C)=O | C4H6O3
product | 4-[2-(4-hydroxyphenyl)-ethenyl]-pyridine | 35 g | OC1=CC=C(C=C1)C=CC1=CC=NC=C1 | C13H11NO
